US04331666
Step D: 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-2-hydroxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid (syn-isomer)
To a stirred solution of 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-3-oxobutyramido)-3-cephem-4-carboxylic acid (6.72 g; 0.0171 mole) in acetic acid (60 ml), a solution of sodium nitrite (1.65 g; 0.0239 mole) in water (6 ml) was added at 5°-10° C. After stirring for 3.5 hours at room temperature, the reaction mixture was quenched with brine and extracted with ethyl acetate (4×200 ml). The combined extracts were washed with water, dried over NaSO4 and evaporated to a foam. Trituration of this product with diethyl ether afforded the title compound as a beige powder, 6.3 g.

reactant | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-3-oxobutyramido)-3-cephem-4-carboxylic acid | 0.0171 mole, 6.72 g | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(CC(CCl)=O)=O)=O)N=NN2 | C16H15ClN8O5S2
reactant | sodium nitrite | 0.0239 mole, 1.65 g | N(=O)[O-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | water | 6 ml | O | H2O
product | 3-[(8-amino-6-tetrazolo[1,5-b]pyridazinyl)thiomethyl]-7-(4-chloro-2-hydroxyimino-3-oxobutyramido)-3-cephem-4-carboxylic acid | NC=1C=2N(N=C(C1)SCC=1CS[C@H]3N(C1C(=O)O)C(C3NC(C(C(CCl)=O)=NO)=O)=O)N=NN2 | C16H14ClN9O6S2
